US09029368B2
B.i. Rac-(4aR*,8aR*)-tert-butyl 3-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-oxohexahydro-2H-pyrido[4,3-e][1,3]oxazine-7(3H)-carboxylate
A vial was charged with K2CO3 (0.22 g, 1.56 mmol, 2 eq.), CuI (0.01 g, 0.08 mmol, 0.1 eq.) and trans-1,2-cyclohexane diamine (0.01 g, 0.08 mmol, 0.1 eq.), rac-(4aR*,8aR*)-tert-butyl 2-oxohexahydro-2H-pyrido[4,3-e][1,3]oxazine-7(3H)-carboxylate (Preparation A, 0.2 g, 0.78 mmol) and flushed with nitrogen for 5 min. A solution of 6-iodo-2,3-dihydrobenzo[b][1,4]dioxine (0.21 g, 0.78 mmol, 1.01 eq.) in dry dioxane (0.78 mL) was added and the resulting suspension was at 110° C. for 40 h. The reaction mixture was cooled to rt and filtered over Celite. The solid was washed by EA (2×10 mL). The filtrate was concentrated to dryness and the residue was purified by CC (DCM/MeOH 49:1 to 19:1) to give the title compound as a beige foam (0.19 g).

reactant | K2CO3 | 1.56 mmol, 0.22 g, 2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | trans-1,2-cyclohexane diamine | 0.08 mmol, 0.01 g, 0.1 eq. | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | rac-(4aR*,8aR*)-tert-butyl 2-oxohexahydro-2H-pyrido[4,3-e][1,3]oxazine-7(3H)-carboxylate | 0.78 mmol, 0.2 g | O=C1OC2C(CN1)CCN(C2)C(=O)OC(C)(C)C | C12H20N2O4
reactant | 6-iodo-2,3-dihydrobenzo[b][1,4]dioxine | 0.78 mmol, 0.21 g, 1.01 eq. | IC1=CC2=C(OCCO2)C=C1 | C8H7IO2
solvent | dioxane | 0.78 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.08 mmol, 0.01 g, 0.1 eq. | [Cu]I
product | Rac-(4aR*,8aR*)-tert-butyl 3-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-oxohexahydro-2H-pyrido[4,3-e][1,3]oxazine-7(3H)-carboxylate | 0.19 g | O1C2=C(OCC1)C=C(C=C2)N2C(OC1C(C2)CCN(C1)C(=O)OC(C)(C)C)=O | C20H26N2O6
